US08735379B2
To a solution of tert-butyl 2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidopropylcarbamate (2.10 g, 4.34 mmol) in DCM (100 mL) at 0° C. was slowly added TFA (30 mL). The mixture was stirred (0° C., 2 h), warmed to RT and stirred (16 h). The mixture was basified to pH=10 with saturated aqueous Na2CO3 and extracted with EA (2×200 mL). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure to afford (4Z,7Z,10Z,13Z,16Z,19Z)—N-(1-aminopropan-2-yl)docosa-4,7,10,13,16,19-hexaenamide (1.60 g, 98%) as a light yellow oil. Mass calculated for C25H40N2O=384.6. found: [M+H]+=385.2.

reactant | tert-butyl 2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidopropylcarbamate | 4.34 mmol, 2.10 g | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NC(CNC(OC(C)(C)C)=O)C | C30H48N2O3
reactant | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (4Z,7Z,10Z,13Z,16Z,19Z)—N-(1-aminopropan-2-yl)docosa-4,7,10,13,16,19-hexaenamide | 1.60 g, 98% | NCC(C)NC(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)=O | C25H40N2O
